*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT comp 7 4 6 8 2 
*==============  Begin SPICE netlist of main design ============
M6 8 5 2 2 pmos4  l=0.8u w=10u
M7 8 7 0 0 nmos4  l=0.8u w=3u
M5 3 7 0 0 nmos4  l=0.8u w=3u
M4 3 6 5 0 nmos4  l=0.8u w=3u
M2 5 1 2 2 pmos4  l=0.8u w=10u
M3 1 4 3 0 nmos4  l=0.8u w=3u
M1 2 1 1 2 pmos4  l=0.8u w=10u
.ends comp
*******************************
